Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.86838195563
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],4.35713966007
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9][o:10]1>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]=[O:10],-2.76070426755
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],4.48976682274
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-6.87321285741
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:5](#[C:6][O:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],0.70931755816
[C:1]#[C:2][C:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.2311285947
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.847760890611
[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-0.00797017052901
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.89978475708
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[H:10],0.44134157208
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-6.504568352590001
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.86522823802
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],5.8421894486
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.999962759129
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2],5.965969594630001
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.86678043832
[O:1]=[C:2][O:3][H:4]>>[C:2][O:3][H:4].[O:1],6.969110552999999
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.22328265013
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:8][C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-3.76056783614
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.9803262039700005
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.6774605938999998
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5],4.9529838701
[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.92463432
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11],1.87531352156
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]#[C:9][H:10])[O:12][H:13],2.04625138803
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.3093683214
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-8.45953384276
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],4.953648972240001
